US04963568
[1R,3S]1-Aminomethyl-3-cyclohexyl-5,6-dimethoxy-1,2,3,4-tetrahydro-naphthalene hydrochloride (0.7 g, 2.3 mmol), from Step 1, was suspended in 20 mL of methylene chloride at -78° C. Boron tribromide (9.7 mL of a 1M solution in methylene chloride, 9.7 mmol) was added and the reaction mixture was allowed to warm to ambient temperature. After stirring at ambient temperature for 1 h, the reaction mixture was cooled to -78° C. and 10 mL of methanol was added. The reaction mixture was again allowed to warm to ambient temperature and stirred at ambient temperature for 1 h. The solvent was removed in vacuo and methanol was added to the residue. The methanol solution was concentrated and the residue dissolved in a minimal amount of methanol and added dropwise to a large excess of diethyl ether. The precipitate was filtered and recrystallized from ethanol/diethyl ether to give 0.48 g (65% yield) of [1R,3S]1-aminomethyl-3-cyclohexyl-5,6-dihydroxy-1,2,3,4-tetrahydro-naphthalene hydrobromide, m.p. 203°-204° C. 1H NMR (d6 -DMSO) delta 0.9-1.5 (m, 8H), 1.6-1.9 (m, 5H), 2.0-2.1 (m, 2H), 2.7-3.0 (m, 3H), 3.3-3.4 (m, 1H), 6.5-6.7 (m, 2H).

reactant | [1R,3S]1-Aminomethyl-3-cyclohexyl-5,6-dimethoxy-1,2,3,4-tetrahydro-naphthalene hydrochloride | 2.3 mmol, 0.7 g | Cl.NC[C@@H]1C[C@@H](CC2=C(C(=CC=C12)OC)OC)C1CCCCC1
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | 10 mL | CO | CH4O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | [1R,3S]1-aminomethyl-3-cyclohexyl-5,6-dihydroxy-1,2,3,4-tetrahydro-naphthalene hydrobromide | 0.48 g, 65% yield | Br.NC[C@@H]1C[C@@H](CC2=C(C(=CC=C12)O)O)C1CCCCC1 | InChI=1S/C17H25NO2.BrH/c18-10-13-8-12(11-4-2-1-3-5-11)9-15-14(13)6-7-16(19)17(15)20;/h6-7,11-13,19-20H,1-5,8-10,18H2;1H/t12-,13-;/m0./s1
